data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2939,3279,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N-:6][N+:7]([CH3:8])=[C:9]([CH3:10])[CH3:11]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[N:7]([CH3:8])[C:9]1([CH3:10])[CH3:11],water,298.15,25.60745321295115,-18.081983240272173
3265,3690,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][O-:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[O:17][O:16][C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,8.954003253944208,-33.39295995683911
2831,3146,[CH3:22][NH:23][C:24](=[O:25])[C:26](=[NH+:27][C-:28]([C:29]([CH3:30])=[O:31])[C:32](=[O:33])[NH:34][CH3:35])[C:36](=[O:37])[NH:38][CH3:39].[F:1][C:2]([F:3])([F:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([C:29]([CH3:30])=[O:31])([C:32](=[O:33])[NH:34][CH3:35])[NH:27][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[C:36](=[O:37])[NH:38][CH3:39],water,298.15,39.72217348317848,-17.44221286603385
524,571,[CH3:15][C:16]#[N+:17][CH-:18][C:19]([CH3:20])=[O:21].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:16]([CH3:15])=[N:17][CH:18]2[C:19]([CH3:20])=[O:21],water,298.15,11.494574435908492,-30.42468396594456
5088,5776,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[NH:26][CH3:27])[o+:28]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]1([C:24](=[O:25])[NH:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[O:28]1,water,298.15,17.573962788594354,-7.663511992038102
1547,1708,[CH3:13][NH:14][C:15](=[O:16])[N-:17][N+:18]([CH3:19])=[C:20]([C:21]#[N:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:20]([C:21]#[N:22])([C:23](=[O:24])[NH:25][CH3:26])[N:18]([CH3:19])[N:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,19.165489627098527,-19.95140958896552
5028,5716,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([C:11]([CH3:12])=[O:13])[N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:14]([CH3:15])[C:10]1([C:8]([CH3:7])=[O:9])[C:11]([CH3:12])=[O:13],water,298.15,54.75740691807518,15.182768281660438
954,1035,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]#[N:20])[C:21](=[O:22])[NH:23][CH3:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:18]([C:19]#[N:20])=[N:17][C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,4.367239615230719,-66.42434892871236
1068,1165,[CH3:16][c-:17]1[c:18](=[O:19])[o:20][c:21]([C:22]#[N:23])[n+:24]1[CH3:25].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:21]1([C:22]#[N:23])[O:20][C:18](=[O:19])[C:17]2([CH3:16])[N:24]1[CH3:25],water,298.15,29.59262268141737,4.102471504548452
2171,2409,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]=[C:19]2[C:20]([CH3:21])=[O:22],water,298.15,12.370413891235732,-38.38065694086781
1804,1996,[CH3:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:17]([C:15]([CH3:14])=[O:16])([C:18]#[N:19])[O:20][C:21]2([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,10.469848455608096,-59.5642403108432
